US05478842
Using an analogous procedure to that described in Example 5, 6-iodo-1,3-dimethyl-2-oxo-1,2,3,4-tetrahydroquinazoline was reacted with (2S,4R)-4-hydroxy-4-(2-mercaptothien-4-yl)-2-methyltetrahydropyran to give (2S,4R)-4-hydroxy-2-methyl-4-[2-(1,3-dimethyl-2-oxo-1,2,3,4-tetrahydroquinazolin-6-ylthio)thien-4-yl]tetrahydropyran in 74% yield as a gum;

reactant | 6-iodo-1,3-dimethyl-2-oxo-1,2,3,4-tetrahydroquinazoline | IC=1C=C2CN(C(N(C2=CC1)C)=O)C | C10H11IN2O
reactant | (2S,4R)-4-hydroxy-4-(2-mercaptothien-4-yl)-2-methyltetrahydropyran | O[C@]1(C[C@@H](OCC1)C)C=1C=C(SC1)S | C10H14O2S2
product | (2S,4R)-4-hydroxy-2-methyl-4-[2-(1,3-dimethyl-2-oxo-1,2,3,4-tetrahydroquinazolin-6-ylthio)thien-4-yl]tetrahydropyran | 74% yield | O[C@]1(C[C@@H](OCC1)C)C=1C=C(SC1)SC=1C=C2CN(C(N(C2=CC1)C)=O)C | C20H24N2O3S2
